US08378104B2
Step D: N-methoxyfuro[2,3-c]pyridin-7-amine
A three-necked flask was charged with 7-chloro-furo[2,3-c]pyridine (40 g, 0.26 mol) and n-butanol (300 mL) and heated at 125° C. Methoxyamine hydrochloride (54 g, 0.65 mol) was added as a solid and then additional methoxyamine hydrochloride (54 g, 0.65 mol) dissolved in water (50 mL) was added slowly. The resulting mixture was heated at reflux overnight. After cooling to RT, the reaction mixture was concentrated in vacuo. The remaining aqueous solution was basified to pH ˜8.5 with saturated NaHCO3 and extracted several times with DCM. The combined DCM extracts were washed with saturated NaHCO3 and brine. This solution was concentrated in vacuo leaving a dark brown syrup which was used without further purification.

reactant | 7-chloro-furo[2,3-c]pyridine | 0.26 mol, 40 g | ClC=1N=CC=C2C1OC=C2 | C7H4ClNO
reactant | n-butanol | 300 mL | C(CCC)O | C4H10O
reactant | Methoxyamine hydrochloride | 0.65 mol, 54 g | Cl.CON
reactant | methoxyamine hydrochloride | 0.65 mol, 54 g | Cl.CON
solvent | water | 50 mL | O | H2O
product | N-methoxyfuro[2,3-c]pyridin-7-amine | CONC=1N=CC=C2C1OC=C2 | C8H8N2O2
